* NAND2 + NOR2 model
* model file
.include ./t14y_tsmc_025_level1.txt

* NAND2 model A,B
**Pull up network**
m0 vdd a out_ab vdd ritsubp1 l=1u w=2.5u
m1 vdd b out_ab vdd ritsubp1 l=1u w=2.5u

**Pull down network**
m2 out_ab a xa 0 ritsubn1 l=1u w=1u
m3 xa b 0 0 ritsubn1 l=1u w=1u

* NAND2 model C,D
**Pull up network**
m4 vdd c out_cd vdd ritsubp1 l=1u w=2.5u
m5 vdd d out_cd vdd ritsubp1 l=1u w=2.5u

**Pull down network**
m6 out_cd c xc 0 ritsubn1 l=1u w=1u
m7 xc d 0 0 ritsubn1 l=1u w=1u

* NOR2 model 
**Pull up network**
m10 vdd out_ab x vdd ritsubp1 l=1u w=2.5u
m11 x out_cd out_o vdd ritsubp1 l=1u w=2.5u

**Pull down network**
m8 out_o out_ab 0 0 ritsubn1 l=1u w=1u
m9 out_o out_cd 0 0 ritsubn1 l=1u w=1u

v_dd vdd 0 5
v_a a 0 5 pulse(0 5 0 0 0 2n 4n)
v_b b 0 5 pulse(0 5 0 0 0 4n 8n)
v_c c 0 5 pulse(0 5 0 0 0 8n 16n)
v_d d 0 5 pulse(0 5 0 0 0 16n 32n)

.control
tran 0.01n 32n
plot a b c d out_o
plot out_o
plot -i(v_dd)

* Propogation delay
meas tran Vmax MAX out_o from=0.01n to=1.8n
meas tran Vmin MIN out_o from=2.2n to=4n
let v10 = Vmin + 0.1*(Vmax-Vmin)
let v90 = Vmin + 0.9*(Vmax-Vmin)
let v50 = Vmin + 0.5*(Vmax-Vmin)


meas tran trise trig out_o val=v10 rise=1 targ out_o val=v90 rise=1
meas tran tfall trig out_o val=v90 fall=1 targ out_o val=v10 fall=1
meas tran tphl_5v trig a val=2.5 rise=1 targ out_o val=v50 fall=1
meas tran tplh_5v trig a val=2.5 fall=1 targ out_o val=v50 rise=1

meas tran tphl_33v trig a val=1.6 rise=1 targ out_o val=v50 fall=1
meas tran tplh_33v trig a val=1.6 fall=1 targ out_o val=v50 rise=1

meas tran tphl_8v trig a val=4 rise=1 targ out_o val=v50 fall=1
meas tran tplh_8v trig a val=4 fall=1 targ out_o val=v50 rise=1

let tp_5v = (tphl_5v+tplh_5v)/2
let tp_33v = (tphl_33v + tplh_33v)/2
let tp_8v = (tphl_8v + tplh_8v)/2

print tp_5v tp_33v tp_8v
.endc


.control
let i_vdd= -i(v_dd)
meas tran Iavg AVG i_vdd from=0.01n to=32n
let power_5v = Iavg*5
let power_33v = Iavg*3.3
let power_8v = Iavg*8
print power_5v power_33v power_8v
.endc
.end



